US07709472B2
(c) (±)-(1S,5R,6R)-3-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azabicyclo[3.2.0]heptan-6-ol
A solution of (±)-(1S,5R,6R)-3-azabicyclo[3.2.0]heptan-6-ol (700 mg, 6.2 mmol) and 8-ethenyl-7-fluoro-2-(methyloxy)-1,5-naphthyridine (1.3 g, 6.2 mmol) in EtOH (4 mL) were heated at 85° C. After 12 h, the solution was concentrated and the residue purified via column chromatography (silica, 1% MeOH in DCM (1% NH4OH)) yielding the title compound (460 mg, 23%) as a yellow oil: LC/MS (ES) m/e 318 (M+H)+.

reactant | (±)-(1S,5R,6R)-3-azabicyclo[3.2.0]heptan-6-ol | 6.2 mmol, 700 mg | [C@H]12CNC[C@@H]2[C@@H](C1)O | C6H11NO
reactant | 8-ethenyl-7-fluoro-2-(methyloxy)-1,5-naphthyridine | 6.2 mmol, 1.3 g | C(=C)C=1C(=CN=C2C=CC(=NC12)OC)F | C11H9FN2O
solvent | EtOH | 4 mL | CCO | C2H6O
product | (±)-(1S,5R,6R)-3-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azabicyclo[3.2.0]heptan-6-ol | 460 mg, 23% | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@H]2C[C@H]([C@H]2C1)O)OC | C17H20FN3O2
